US06482859B1
25 g of 3-phenyl-2-propyn-1-ol and 40 g of toluene-4-sulfonic acid chloride are dissolved in 500 ml of diethyl ether and cooled to −20° C. 26.6 g of finely powdered potassium hydroxide are added in portions to that solution, over a period of 20 minutes, in such a manner that the internal temperature of the reaction mixture does not exceed −5° C. When the addition is complete, the reaction mixture is stirred for 2 hours at from 0 to 5° C. and then introduced into one litre of ice-water. Extraction is carried out twice using one litre of diethyl ether each time. The organic phases are washed once with 500 ml of saturated sodium chloride solution, combined, dried over sodium sulfate and concentrated, yielding toluene-4-sulfonic acid (3-phenyl-2-propyn-1-yl) ester in the form of a colourless resin.

reactant | 3-phenyl-2-propyn-1-ol | 25 g | C1(=CC=CC=C1)C#CCO | C9H8O
reactant | toluene-4-sulfonic acid chloride | 40 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | toluene-4-sulfonic acid (3-phenyl-2-propyn-1-yl) ester | C1(=CC=CC=C1)C#CCOS(=O)(=O)C1=CC=C(C=C1)C | C16H14O3S
